US05399588
[[2-(5-bromo-naphthalen-2-ylmethyl)-3-oxo-cyclohex-1-enyl]acetyl]carbamic acid methyl ester
A mixture of [2-(5-bromo-naphthalen-2-ylmethyl)-3-oxo-cyclohex-1-enyl]-acetic acid (1.1 g, 2.95 mmol), N-methoxycarbonyl-N'-tert-butylcarbodiimide (0.51 g, 3.25 mmol), and THF (20 mL) was refluxed for 4 hours. The volatiles were removed in vacuo and the residue was purified by flash chromatography on silica gel (eluting solvent hexane/EtOAc 2/1) to give a white solid (0.95 g, 76% yield, m.p. 128°-129° C.).

reactant | [2-(5-bromo-naphthalen-2-ylmethyl)-3-oxo-cyclohex-1-enyl]-acetic acid | 2.95 mmol, 1.1 g | BrC1=C2C=CC(=CC2=CC=C1)CC1=C(CCCC1=O)CC(=O)O | C19H17BrO3
reactant | N-methoxycarbonyl-N'-tert-butylcarbodiimide | 3.25 mmol, 0.51 g | COC(=O)N=C=NC(C)(C)C | C7H12N2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [[2-(5-bromo-naphthalen-2-ylmethyl)-3-oxo-cyclohex-1-enyl]acetyl]carbamic acid methyl ester | 0.95 g, 76% yield | COC(NC(CC1=C(C(CCC1)=O)CC1=CC2=CC=CC(=C2C=C1)Br)=O)=O | C21H20BrNO4
